US04499091
Sodium hydroxide (0.91 g, 0.0228 mole) was dissolved in 100 ml of water, and 2.6 g (0.0091 mole) of ethyl 1-amino-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate was added. The mixture was stirred on a steam bath for two hours and the hot solution was neutralized with acetic acid (1.6 ml). The suspension of solid was stirred at room temperature for about sixteen hours, and the solid was collected by filtration and washed with water. The product was recrystallized from dimethylformamide to give 2.0 g of 1-amino-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, beige powder, m.p. 312°-315° C.

reactant | Sodium hydroxide | 0.0228 mole, 0.91 g | [OH-].[Na+]
reactant | ethyl 1-amino-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.0091 mole, 2.6 g | NN1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)OCC | C12H10ClFN2O3
reactant | acetic acid | 1.6 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 1-amino-7-chloro-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.0 g | NN1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C10H6ClFN2O3
